US05688815
1-(2,3-Dihydroxy-propyl)-3-hydroxy-2-(hydroxy-phenyl-methyl)-1H-pyridin-4-one
3-Benzyloxy-1-(2,3-dihydroxy-propyl)-2-(hydroxy-phenyl-methyl)-1H-pyridin-4-one: From 2.1 g of 3-benzyloxy-1-(2,3-dihydroxy-propyl)-2-[phenyl-(tetrahydropyran-2-yloxy)methyl]-1H-pyridin-4-one there is obtained analogously to Example 6e, after chromatography: 3-benzyloxy-1-(2,3-dihydroxy-propyl)-2-(hydroxy-phenyl-methyl)-1H-pyridin-4-one. Colourless foam, diastereoisomeric mixture. Rf value 0.22 (silica gel 60, dichloromethane/ethanol 4/1).

reactant | 3-benzyloxy-1-(2,3-dihydroxy-propyl)-2-(hydroxy-phenyl-methyl)-1H-pyridin-4-one | C(C1=CC=CC=C1)OC1=C(N(C=CC1=O)CC(CO)O)C(C1=CC=CC=C1)O | C22H23NO5
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 1-(2,3-Dihydroxy-propyl)-3-hydroxy-2-(hydroxy-phenyl-methyl)-1H-pyridin-4-one | OC(CN1C(=C(C(C=C1)=O)O)C(C1=CC=CC=C1)O)CO | C15H17NO5
